US06610691B1
Methyl 3-(2-Acetoxyethoxy)-2-hydroxy-3,3-diphenylpropionate
7.95 g (31.3 mmol) of methyl 3,3-diphenyl-2,3-epoxypropionate were dissolved in 20 ml of diethyl ether under N2 and cooled to 0° C., and 5.87 ml (31.3 mmol) of 2-hydroxyethyl acetate (50% strength) and 3 drops of BF3.Et2O were added. After removal of the ice bath, the mixture was stirred at RT for 2 h.

reactant | methyl 3,3-diphenyl-2,3-epoxypropionate | 31.3 mmol, 7.95 g | C1(=CC=CC=C1)C1(C(C(=O)OC)O1)C1=CC=CC=C1 | C16H14O3
reactant | 2-hydroxyethyl acetate | 31.3 mmol, 5.87 ml | C(C)(=O)OCCO | C4H8O3
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
catalyst | BF3.Et2O | 3 drops | B(F)(F)F.CCOCC
product | Methyl 3-(2-Acetoxyethoxy)-2-hydroxy-3,3-diphenylpropionate | C(C)(=O)OCCOC(C(C(=O)OC)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H22O6
